US07687491B2
(8f) 2-[5-(4-Isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzothiophen-4-ol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 2 (2c) using 4-{[t-butyl(dimethyl)silyl]oxy}-N′-hydroxy-4,5,6,7-tetrahydro-1-benzothiophene-2-carboximidamide (0.15 g, 0.50 mmol) that was obtained in Example 8 (8e), 4-isobutylbenzoic acid (89 mg, 0.50 mmol), N,N′-dicyclohexylcarbodiimide (0.11 g, 0.55 mmol), and a 1.0 M solution of tetrabutylammonium fluoride (0.75 ml, 0.75 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:1) as the eluent to afford the title compound (92 mg) in a yield of 52% as a colourless oily product.

reactant | 4-{[t-butyl(dimethyl)silyl]oxy}-N′-hydroxy-4,5,6,7-tetrahydro-1-benzothiophene-2-carboximidamide | 0.50 mmol, 0.15 g | [Si](C)(C)(C(C)(C)C)OC1CCCC2=C1C=C(S2)C(N)=NO | C15H26N2O2SSi
reactant | 4-isobutylbenzoic acid | 0.50 mmol, 89 mg | C(C(C)C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | N,N′-dicyclohexylcarbodiimide | 0.55 mmol, 0.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrabutylammonium fluoride | 0.75 mmol, 0.75 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[5-(4-Isobutylphenyl)-1,2,4-oxadiazol-3-yl]-4,5,6,7-tetrahydro-1-benzothiophen-4-ol | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1SC2=C(C1)C(CCC2)O | C20H22N2O2S
